* source PART2
R_R2         0 N00702  10  
C_C1         N00591 N00491  20m  
C_C2         0 N00325  25m  
V_V2         N00553 0 DC 0Vdc AC 6Vac 
L_L1         N00702 N00325  2H  
E_E1         N02360 0 N00325 0 0.5
R_R1         N00553 N00591  4  
X_F1    N00491 N02360 N00702 0 SCHEMATIC1_F1 

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 4
VF_F1         1 2 0V
.ends SCHEMATIC1_F1
