* source AZ1
M_M1         N000032 N00253 N000030 N000030 M2N7000
M_M2         N004972 N00826 N004970 N004970 M2N7000
V_V3         N00771 0 10Vdc
R_R1         N000032 N00319  100  
R_R3         N004972 N00771  100  
R_R2         0 N000030  150  
R_R4         0 N004970  150  
R_R5         0 N00826  123.214k  
R_R6         N00826 N00771  100k  
V_V1         N00319 0 10Vdc
V_V2         N00253 0 0Vdc
