* source AZ4
M_M1         N00427 N00606 0 0 M2N7000
C_C2         N00799 N00606  10u  
R_R1         N00427 N00529  5k  
V_V2         N00799 0  
+SIN 0 10m 1k 0 0 0
R_R2         0 N00487  100meg  
R_R3         N00529 N00606  47k  
R_R4         N00606 0  10.5k  
V_V1         N00529 0 10Vdc
C_C1         N00427 N00487  10u  
