* source AZ4
R_R3         0 N00152  56k  
R_R2         N00125 N00224  10k  
C_C2         N00152 N00125  100n  
V_V2         N00224 0 DC 0Vdc AC 2Vac 
C_C1         0 N00125  100n  
R_R1         0 N00152  10k  
