* source AZ5
C_C1         0 N00152  100n  
R_R2         N00125 N00224  10k  
C_C2         N00125 0  100n  
R_R1         N00152 N00125  10k  
V_V3         N00224 0  
+PULSE 2 -2 0 1n 1n 0.25m 0.5m
