* source LAST
X_U1         N00769 N00429 N00222 N000033 N00510 LM741
V_V4         N00617 0  
+PULSE -2 2 0 1n 1n 5m 10m
R_R3         0 N00769  150k  
R_R1         N00617 N00429  150k  
R_R2         N00429 N00510  150k  
V_V1         0 N000033 9
V_V2         N00222 0 9
C_C1         N00429 N00510  100n  
