* source AZ3
L_L1         N00945 N01169  18m  
V_V1         N00945 0  
+PULSE -2 2 0 1n 1n 0.1m 0.2m
C_C1         N01169 N00903  680p  
R_R1         0 N00903  {a}  
.PARAM  a=1
