* source AZ5
L_L1         N00945 N01169  18m  
V_V1         N00945 0  
+PULSE -2 2 0 1n 1n 0.5m 1m
C_C1         0 N00903  680p  
R_R1         N00903 N01169  0.8k  
