* source AZ2
L_L1         N00945 N00999  18m  
V_V1         N00945 0  
+PULSE 2 -2 0 1n 1n 0.1m 0.2m
C_C1         N00999 N00903  68p  
R_R1         0 N00903  4.7k  
