* source PISH
L_L1         N00127 N00181  18m  
R_R1         N00208 N00181  4.7k  
V_V1         N00127 0  
+PULSE -2 2 0 1n 1n 0.1m 0.2m
C_C1         0 N00208  68p  
