* source Q2
V_V1         N00393 0  
+PULSE 2 -2 0 1n 1n 7.5m 15m
R_R1         N00393 N00447  10k  
C_C1         0 N00447  100n  
C_C2         N00393 N00447  10n  
