* source Q1
V_V1         N00173 0  
+PULSE -2 2 0 1n 1n 10m 20m
R_R1         N00173 N00227  10k  
C_C1         0 N00227  100n  
C_C2         N00254 N00227  100n  
R_R2         0 N00254  10k  
