* source Q3
V_V1         N00241 0  
+PULSE -2 2 0 1n 1n 10m 20m
C_C1         0 N00295  100n  
C_C2         N00347 N00295  10n  
R_R1         N00241 N00295  10k  
R_R2         0 N00347  10k  
