* source Q2
V_V1         N00593 0  
+PULSE 2 -2 0 1n 1n 10m 20m
R_R1         N00593 N00647  10k  
C_C1         0 N00647  100n  
C_C2         0 N00647  10n  
