* source Q4
V_V1         N00197 0  
+PULSE -2 2 0 1n 1n 10m 20m
C_C1         0 N00278  100n  
C_C2         N00197 N00251  100n  
R_R1         N00251 N00278  10k  
R_R2         0 N00251  10k  
