* source Q6
R_R1         N00149 N00180  33  
R_R2         N00180 N00207  33  
R_R3         0 N00180  1k  
V_V1         N00149 0 4.5Vdc
R_R4         0 N00207  {a}  
.PARAM  a=1k
