* source Q4-1
V_V2         N00802 0  
+SIN 0 5 150 0 0 0
R_R1         N00183 N00222  0.18k  
R_R2         N00222 0  0.18k  
R_R3         0 N00222  5.6k  
R_R4         N00802 N00183  0.06k  
