* source Q2-2
V_V1         N00447 0  
+SIN 0 5 150 0 0 0
R_R1         N00127 N00165  0.18k  
R_R3         0 N00165  5.6k  
R_R4         N00447 N00127  0.06k  
