* source PISH4
X_U1         N00769 N00429 N00222 N000033 N00510 LM741
V_V3         N00769 0  
+SIN 0 2 1k 0 0 0
R_R1         0 N00429  1k  
R_R2         N00429 N00510  5.6k  
V_V1         0 N000033 9
V_V2         N00222 0 9
