* source Q2
R_R1         N00075 N00109  10k  
R_R2         N005440 N00075  60  
V_V3         N005440 0 DC 0Vdc AC 2Vac 
C_C2         0 N00109  100n   
