* source S02
R_R1         0 N00173  1k  
V_V1         N00192 0 18
X_R6    0 N00192 N00173 SCHEMATIC1_R6 
.PARAM  a=0.1

.subckt SCHEMATIC1_R6 1 2 t  
RT_R6         1 t {(1K*(1-{a}))+.001}
RB_R6         t 2 {(1K*{a})+.001}
.ends SCHEMATIC1_R6
