* source Q4_PISHGOZARESH
V_V1         N00173 0 3
R_R8         N01769 0  2.2k  
V_V2         0 N00255 1.5
R_R9         0 N01769  5.6k  
R_R4         0 N01376  1k  
R_R5         N01376 N01434  2.2k  
R_R1         N00173 N00203  1k  
R_R6         0 N01376  5.6k  
R_R2         N00203 N00255  2.2k  
V_V3         0 N01434 1.5
R_R3         0 N00203  5.6k  
V_V4         N01739 0 3
R_R7         N01739 N01769  1k  
